US04183932
To a suspension of 0.4 g of 7-chloro-4,5-dihydro-5-phenyltetrazolo[1,5-a]quinazoline in 20 ml of dimethylformamide was added 0.07 g of 50% sodium hydride. After the mixture was stirred at room temperature for 1 hour, 0.4 g of methyl iodide was added thereto. The resulting mixture was stirred at room temperature for 2 hours and then poured into ice-water. The mixture was stirred with a small quantity of isopropyl ether, and the resulting precipitate was collected by filtration, washed successively with water and isopropyl ether, and dried to give 0.26 g of 7-chloro-4,5-dihydro-4-methyl-5-phenyltetrazolo[1,5-a]quinazoline as pale yellow crystals. Recrystallization from ethanol gave colorless scales, m.p. 282°-283° C.

reactant | 7-chloro-4,5-dihydro-5-phenyltetrazolo[1,5-a]quinazoline | 0.4 g | ClC=1C=C2C(NC=3N(C2=CC1)N=NN3)C3=CC=CC=C3 | C14H10ClN5
reactant | sodium hydride | 0.07 g | [H-].[Na+]
reactant | methyl iodide | 0.4 g | CI | CH3I
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 7-chloro-4,5-dihydro-4-methyl-5-phenyltetrazolo[1,5-a]quinazoline | 0.26 g | ClC=1C=C2C(N(C=3N(C2=CC1)N=NN3)C)C3=CC=CC=C3 | C15H12ClN5
